US06451821B1
50 cm3 of a 3N solution of ethyl magnesium bromide dissolved in diethyl ether are added over 1 hour to a mixture, under an inert atmosphere, of 14 g of tert-butyl N-{2-[N-methoxy-N-(methyl)amino]-2-oxo-(1R)-1-(4-pyridylmethyl)ethyl}carbamate in 350 cm3 of tetrahydrofuran, cooled to a temperature in the region of 0° C. After stirring for 48 hours at 0° C., water is added to the reaction medium, the resulting mixture is extracted with dichloromethane and the extracts are washed with water. The organic phase is dried over sodium sulphate, filtered and then concentrated under reduced pressure (2 kPa) at a temperature in the region of 40° C. 10.5 g of tert-butyl N-[(1R)-2-oxo-1-(4-pyridylmethyl)butyl]carbamate are obtained in the form of a yellow oil [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 0.94 (t, J=7 Hz: 3H); 1.32 (s: 9H); from 2.40 to 2.65 (mt: 2H); 2.70 (dd, J=14 and 10.5 Hz: 1H); 3.06 (dd, J=14 and 4.5 Hz: 1H); 4.22 (mt: 1H); 7.26 (broad d, J=5.5 Hz: 2H); 7.44 (broad d, J=8 Hz: 1H); 8.45 (broad d, J=5.5 Hz: 2H)].

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | tert-butyl N-{2-[N-methoxy-N-(methyl)amino]-2-oxo-(1R)-1-(4-pyridylmethyl)ethyl}carbamate | 14 g | CON(C)C([C@@H](CC1=CC=NC=C1)NC(OC(C)(C)C)=O)=O | C15H23N3O4
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 350 cm3 | O1CCCC1 | C4H8O
product | tert-butyl N-[(1R)-2-oxo-1-(4-pyridylmethyl)butyl]carbamate | 10.5 g | O=C([C@@H](CC1=CC=NC=C1)NC(OC(C)(C)C)=O)CC | C15H22N2O3
